US09382238B2
A solution of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (50 mg, 0.122 mmol), 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)-2-methylpropan-1-ol (28.5 mg, 0.122 mmol), HATU (92 mg, 0.243 mmol) and DIEA (0.064 mL, 0.365 mmol) in DCM (10 mL) was stirred at 25° C. After LCMS analysis showed the starting material was consumed, the mixture was washed with H2O. The organic layer was washed with brine and dried over Na2SO4 and filtered. The filtrate was concentrated to give the crude product, which was purified by preparative TLC (DCM/MeOH=20/1) to yield 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(6-(1-hydroxy-2-methylpropan-2-yl)-5-(trifluoromethyl)pyridin-3-yl)acetamide (20 mg, 0.032 mmol, 26% yield): 1H NMR (400 MHz, CD3OD) δ 8.95 (br. s., 1H), 8.50 (s, 1H), 7.99 (s, 1H), 7.43-7.39 (m, 3H), 7.30-7.24 (m, 2H), 6.95-6.91 (m, 2H), 6.48 (s, 1H), 5.30 (s, 2H), 4.16-4.11 (m, 2H), 3.87-3.79 (m, 6H), 1.40-1.38 (m, 9H); ES-LCMS m/z: 628.3 (M+H).

reactant | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.122 mmol, 50 mg | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)-2-methylpropan-1-ol | 0.122 mmol, 28.5 mg | NC=1C=C(C(=NC1)C(CO)(C)C)C(F)(F)F | C10H13F3N2O
reactant | HATU | 0.243 mmol, 92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.365 mmol, 0.064 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(6-(1-hydroxy-2-methylpropan-2-yl)-5-(trifluoromethyl)pyridin-3-yl)acetamide | 0.032 mmol, 20 mg, 26% yield | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC=1C=NC(=C(C1)C(F)(F)F)C(CO)(C)C)F | C33H33F4N3O5
